
// Gate  Capacitance of	nmos transistor	with drain and source connected	to vdd

simulator lang=spectre

global 0 vdd vss
parameters VG_VAL=0.8
include	"22nm_HP.pm"

parameters Wn=44n
parameters Ln=22n


vdd_I1 ( vdd 0 ) vsource dc=0.8
vss_I1 ( vss 0 ) vsource dc=0



// Transistor Instantiation

M1 ( vdd net1 vdd	vdd ) nmos w=Wn	l=Ln
PORT1 (net1 0) vsource dc=VG_VAL type=sine ampl=1m mag=1m phase=0


sweepVG	sweep param=VG_VAL values=[0.2 0.4 0.6 0.8] {

ac1 ac start=100 stop=10M step=1000 annotate=status

}


save PORT0:p
saveOptions options save=allpub

